US04564476
c. 2-(1-Pentenyl)benzenemethanol
A solution of 9.70 g of methyl 2-(1-pentenyl)benzenecarboxylate, the product of Example 11b, was added to a mixture of 1.69 g lithium aluminum hydride and 300 ml of ethyl ether with stirring. After stirring for 0.5 hour, the reaction was quenched by successive additions of 1.7 ml of H2O, 1.7 ml of 15% NaOH, and 5.1 ml of H2O. The white solid was filtered and the filtrate was concentrated to obtain a yellow oil. Distillation gave the title compound, as a mixture of cis and trans isomers, bp 91°-102°/0.025 mm Hg.

reactant | methyl 2-(1-pentenyl)benzenecarboxylate | 9.70 g | C(=CCCC)C1=C(C=CC=C1)C(=O)OC | C13H16O2
reactant | lithium aluminum hydride | 1.69 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ethyl ether | 300 ml | C(C)OCC | C4H10O
product | 2-(1-Pentenyl)benzenemethanol | C(=CCCC)C1=C(C=CC=C1)CO | C12H16O
